US06500863B1
N-((2R)-Tetrahydrofurfuryl)-3-amino-6-chloro-2-hydroxybenzenesulfonamide
Following the general hydrogenation procedure outlined in example 15, N-((2R)-tetrahydrofurfuryl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide (660 mg, 1.96 mmol) was reduced with hydrogen and Pd/C (303 mg) to form the desired product (563 mg, 94%). EI-MS mn/z 305(M-H)−.

reactant | N-((2R)-tetrahydrofurfuryl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 1.96 mmol, 660 mg | C([C@H]1CCCO1)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C11H13ClN2O6S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 303 mg | [Pd] | Pd
product | N-((2R)-Tetrahydrofurfuryl)-3-amino-6-chloro-2-hydroxybenzenesulfonamide | 563 mg, 94% | C([C@H]1CCCO1)NS(=O)(=O)C1=C(C(=CC=C1Cl)N)O | C11H15ClN2O4S
